US08114891B2
Quinuclidin-4-ylmethyl 1H-indazole-3-carboxylate was prepared in a similar manner to (Quinuclidin-4-yl)methyl 1H-indole-3-carboxylate, substituting 1H-indazole-3-carbonyl chloride as the electrophile.

reactant | (Quinuclidin-4-yl)methyl 1H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC12CCN(CC1)CC2 | C17H20N2O2
reactant | 1H-indazole-3-carbonyl chloride | N1N=C(C2=CC=CC=C12)C(=O)Cl | C8H5ClN2O
product | Quinuclidin-4-ylmethyl 1H-indazole-3-carboxylate | N1N=C(C2=CC=CC=C12)C(=O)OCC12CCN(CC1)CC2 | C16H19N3O2
